US08022075B2
1-[4-(1,3-Oxazol-5-yl)phenyl]-1-ethanone (21)
4-Acetylbenzaldehyde (2.96 g) and p-toluenesulfonylmethylisocyanate (4.69 g) were dissolved in methanol (200 mL). Potassium carbonate (3.32 g) was added to the solution, and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The solvent was evaporated, and the residue was purified through silica gel column chromatography (dichloromethane:methanol=100:1), followed by concentration under reduced pressure, to thereby yield the title compound (3.14 g).

reactant | 4-Acetylbenzaldehyde | 2.96 g | C(C)(=O)C1=CC=C(C=O)C=C1 | C9H8O2
reactant | p-toluenesulfonylmethylisocyanate | 4.69 g | C1(=CC=C(C=C1)S(=O)(=O)CN=C=O)C | C9H9NO3S
reactant | Potassium carbonate | 3.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | methanol | 200 mL | CO | CH4O
product | 1-[4-(1,3-Oxazol-5-yl)phenyl]-1-ethanone | 3.14 g | O1C=NC=C1C1=CC=C(C=C1)C(C)=O | C11H9NO2
